US06630509B2
3-(4-{2-[4-(Methylsulfonyl)phenyl]ethoxy}phenyl)-2-(phenylthio)propan-1-ol
Ethyl 3-(4-{2-[4-(methylsulfonyl)phenyl]ethoxy} phenyl)-2-(phenylthio)propanoate (0.58 g, 1.20 mmole) was dissolved in dry dichloromethane (15 ml). The solution was cooled to −78° C. and DIBAL-H (1M hexan solution, 3.0 ml, 3.0 mmole) was added. The cooling agent was removed after 20 min. After 2 h the reaction mixture was cooled on an ice-bath before the addition of HCl (1M, 15 ml). The mixture was extracted with dicloromethane, the organic phase was washed twice with water (15 ml) and dried with NaSO4. Evaporation gave 0.554 g, ˜100%; of the desired product as a colorless oil.

reactant | Ethyl 3-(4-{2-[4-(methylsulfonyl)phenyl]ethoxy} phenyl)-2-(phenylthio)propanoate | 1.20 mmole, 0.58 g | CS(=O)(=O)C1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC(C(=O)OCC)SC1=CC=CC=C1 | C26H28O5S2
reactant | DIBAL-H | 3.0 mmole, 1M, 3.0 ml | CC(C)C[AlH]CC(C)C
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(4-{2-[4-(Methylsulfonyl)phenyl]ethoxy}phenyl)-2-(phenylthio)propan-1-ol | CS(=O)(=O)C1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC(CO)SC1=CC=CC=C1 | C24H26O4S2
